Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / lisinopril / hydrochlorothiazide
 
Attending: ___
 
Chief Complaint:
BRBPR 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old ___ women
with dementia who underwent an uncomplicated 3 column
hemorrhoidectomy with 1 hemorrhoidal pexy ___, ___) for ongoing rectal bleeding in the setting of taking
warfarin for atrial fibrillation. She is presenting to the ED 
for
recurrent rectal bleeding.

Reviewing ___ Hosptial records, patient was discharged
home on ___ after her hemorrhoid surgery with a Hgb of 9.4. 
She resumed anticoagulation with Eliquis 2.5mg BID on ___ 
and
per family report the bleeding recurred on ___. They brought
her back on ___ and her initial vitals were normal and her
Hgb was 9.7. A CT A/P noted diverticulosis and intermediate
density at the lower portion of the rectum, consistent with
intra-rectal bleed and left posterior perianal swelling with fat
stranding (likely post-surgical but infection cannot be ruled
out). Seen by general surgery and admitted to medicine for
observation. She was discharged on ___ off of 
anticoagulation
with a Hgb of 9.3.

After leaving ___, her family brought her to the ___ 
ED
for a second opinion, noting that she is pale appearing with
increased lethargy and there has been BRBPR "oozing a lot" - not
dark, tarry, sticky or mixed in stool.  Patient wears depends 
and
her granddaughter says she has needed to double up so they do 
not
soak through with blood.  They also endorse that she becomes
short of breath with minimal activity.

In the ED, her initial vitals were 97.3 57 119/66 19 100% RA.
Exam was notable for abdominal pain out of proportion to exam,
Hgb was 9.4 with PLTs of 430 and an INR of 1.2. A CTA of her
abdomen and pelvis, prelim report notes patent vessels with no
evidence of ischemic colitis. GI was consulted and she was
admitted with similar vitals on transfer. 

On arrival to the floor, patient was interviewed with a ___
interpreter over the phone. She was unable to provide detailed
history ("My daughter brought me to the hospital because I'm not
doing too good...I'm sick..." and could not clarify further). 
She
said she felt like there was a knot in her abdomen, denied any
anal pain, and she continued to have dripping of blood from her
anus. 
 
Past Medical History:
-Atrial fibrillation 
-Diabetes 
-CHF 
-Hyperlipidemia 
-Dementia 
-Hemorrhoids 

-3 column hemorrhoidectomy with 1 hemorrhoidal pexy ___,
___)
 
Social History:
___
Family History:
no FHx of GIB, lives in ___, denies etoh/drugs/tobacco
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 98.1 139/56 71 18 94%RA 
Gen: Smiling, in no acute distress 
HEENT: poor dentition 
Chest: clear to auscultation anteriorally 
CV: Irregular, no m/r/g 
Abd: soft, non tender 
Ext: warm, no edema 
Rectal: external exam notable for some healing areas from
hemorrhoid surgery, internal exam deferred 

DISCHARGE PHYSICAL EXAM:
Temp: 97.6 PO BP: 141/82 R Lying HR: 68 RR: 14 O2
sat: 94% O2 delivery: Ra FSBG: 135 
Gen: Smiling, in no acute distress 
HEENT: poor dentition 
Chest: clear to auscultation b/l 
CV: Irregular, no m/r/g 
Abd: soft, non tender, nondistedned. +BS
Ext: warm, well perfused. No ___ edema 
Rectal: external exam notable for some hemorrhoids, none 
actively
bleeding, but with spots of bled from anus. No tenderness to
palpation
 
Pertinent Results:
ADMISSION LABS
___ 09:00PM BLOOD WBC-8.2 RBC-3.74* Hgb-9.4* Hct-31.0* 
MCV-83 MCH-25.1* MCHC-30.3* RDW-17.8* RDWSD-53.4* Plt ___
___ 09:00PM BLOOD ___ PTT-25.8 ___
___ 09:00PM BLOOD Glucose-104* UreaN-13 Creat-1.0 Na-137 
K-5.2 Cl-97 HCO3-27 AnGap-13
___ 06:39AM BLOOD ALT-12 AST-15 LD(LDH)-130 AlkPhos-95 
TotBili-0.6
___ 09:00PM BLOOD proBNP-1321*
___ 09:00PM BLOOD Iron-22*
___ 06:39AM BLOOD Albumin-3.5 Calcium-9.4 Phos-4.4 Mg-1.5*
___ 09:00PM BLOOD calTIBC-402 Ferritn-19 TRF-309
___ 09:35PM BLOOD Lactate-2.4*
___ 01:20AM BLOOD Lactate-1.1

DISCHARGE LABS:
___ 07:55AM BLOOD WBC-5.8 RBC-3.71* Hgb-9.4* Hct-31.5* 
MCV-85 MCH-25.3* MCHC-29.8* RDW-17.8* RDWSD-54.7* Plt ___
___ 07:06AM BLOOD Glucose-126* UreaN-10 Creat-0.9 Na-142 
K-4.5 Cl-103 HCO3-27 AnGap-12

MICRO:
None

IMAGING:
CTA A/P ___:
1. Within the limitations of motion artifact, the mesenteric 
vasculature
appears patent.  No definite evidence of bowel wall thickening, 
fat stranding,
or hypoattenuation of the bowel wall suggestive of ischemic 
colitis.
2. Increased mucosal and submucosal enhancement of the distal 
rectum and
perirectal area may be compatible with hemorrhoids and/or 
proctitis.  No
significant perirectal fat stranding.

 
Brief Hospital Course:
___ year old ___ women with PMHx afib, dementia, 
diabetes, HF, GERD, who underwent an uncomplicated 3 column 
hemorrhoidectomy with 1 hemorrhoidal pexy ___, ___ 
___) for ongoing rectal bleeding in the setting of 
anticoagulation

#Lower rectal bleed
#Recent hemorroidectomy and rectal pexy 
CT A/P at OSH on ___ noted evidence of lower rectal 
bleeding, which is consistent with her known diagnosis of 
hemorrhoids and recent surgery. Her vitals were stable here. CTA 
abdomen/pelvis on admission without evidence of ischemic colitis 
and has increased enhancement distally consistent with 
hemorrhoids or proctitis. Low likehood of proctitis given labs 
and exam. Patient was evaluated by colorectal surgery and 
gastroenterology, who reported that bleeding after 
hemorrhoidectomy is common and last up to weeks especially in 
the setting of anticoagulation. They recommend holding 
anticoagulation for 10 days and follow up with her surgeon, with 
whom she has an appointment on ___. She was also started on 
miralax to reduce straining. 

#Iron Deficiency Anemia
Likely ___ BRBPR. ED transfused 1 unit out of concern for 
symptomatic anemia. Hemoglobin remained stable on discharge.

#Atrial fibrillation 
Continued home metoprolol. Held home apixaban. Held diltiazem 
given bradycardia

#Diabetes 
Held metformin while inpatient, was on insulin sliding scale. 

#CHF 
Unknown EF. Continued home lasix on discharge. Continued home 
aspirin. Changed simvastatin to atorvastatin given simvastatin 
interaction with diltiazem.

#Dementia 
Continued Donepezil 5mg QHS

#GERD
Continued Omeprazole 20mg daily

TRANSITIONAL ISSUES
[]Please hold apixaban through ___ per colorectal surgery
[]Please repeat CBC at outpatient PCP ___. Discharge hgb of 9.4
[]Please ensure follow up with patient's surgeon, Dr. ___ 
[]Continue to monitor BP as outpatient. Consider d/c diltiazem 
if having soft BPs
[]Changed simvastatin to atorvastatin given diltiazem 
interaction with simvastatin.
[]Held diltiazem given bradycardia to ___'s and normotension
[]Recommend starting PO iron as outpatient for iron deficiency 
anemia. Ferritin of 19, transferrin saturation of 5%

New medications:
Atorvastatin 20mg
Miralax

Held medication: 
Apixaban
Diltiazem 30mg TID

Discontinued medications:
simvastatin

>30 minutes spent on patient care and coordination on day of 
discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. Omeprazole 20 mg PO DAILY 
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO QHS 
5. Diltiazem 30 mg PO TID 
6. Furosemide 40 mg PO DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO DAILY 
8. MetFORMIN (Glucophage) 500 mg PO QPM 
9. Meclizine 25 mg PO TID:PRN nausea, dizziness 
10. Donepezil 5 mg PO QHS 

 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth daily 
Disp #*30 Packet Refills:*0 
3.  Donepezil 5 mg PO QHS  
4.  Furosemide 40 mg PO DAILY  
5.  Meclizine 25 mg PO TID:PRN nausea, dizziness  
6.  MetFORMIN (Glucophage) 1000 mg PO DAILY  
7.  MetFORMIN (Glucophage) 500 mg PO QPM  
8.  Metoprolol Succinate XL 100 mg PO DAILY  
9.  Metoprolol Succinate XL 50 mg PO QHS  
10.  Omeprazole 20 mg PO DAILY  
11. HELD- Diltiazem 30 mg PO TID  This medication was held. Do 
not restart Diltiazem until told by your doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
Bright red blood per rectum secondary to recent hemorrhoidectomy

SECONDARY:
Atrial fibrillation
Diabetes Mellitus

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of you.

Why you were admitted?
- You were admitted beceause you were having bleeding from your 
rectum.

What we did for you?
- You were given a unit of blood.
- You were evaluated by the colorectal surgeons and GI doctors, 
who felt that your bleeding was from oozing of blood from your 
previous hemorrhoid surgery. This can be expected to happen for 
weeks. They did not recommend any further intervention.

What you should do when you leave the hospital?
- You should not take elliquis until ___.
- Please follow up with your primary care doctor and your 
colorectal surgeon.
- It is expected for you to have some bleeding from your rectum 
as you had recent surgery. If you have increased or large 
amounts of bleeding from your rectum, or feel short of breath, 
more tired, then you should go to the emergency room to make 
sure your blood counts are stable. 

We wish you the best,
Your ___ team
 
Followup Instructions:
___